US03991070
EXAMPLE 7 1-Chloro-8-fluoro-6-phenyl-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine
The 5-fluoro-2-(3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)benzophenone is reacted with ethylamine to form the titled product.

reactant | 5-fluoro-2-(3-chloro-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)benzophenone | FC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)Cl | C24H14ClFN4O3
reactant | ethylamine | C(C)N | C2H7N
product | 1-Chloro-8-fluoro-6-phenyl-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine | ClC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)F | C16H10ClFN4
